US06258812B1
36.1) 5-Bromo-2-(1H-pyridin-4-ylidene)-indan-1,3-dione
Under N2 atmosphere, a mixture of 30 g (132 mmol) 5-bromoisobenzofuran-1,3-dione (|4-bromophthalic acid anhydride; Apin, GB) and 12.87 ml (132 mmol) 4-picoline is heated for 15 h to 180° C. The resulting black mass is cooled to 100° C., mixed with 160 ml ethanol,boiled for 2 hours, and filtered off. The dried residue is triturated in a mortar, boiled further for 1 h in 180 ml ethanol, filtered, and washed with ethanol. The residue is dissolved at 140° C. in 90 ml DMEU, cooled, mixed with 250 ml ethyl acetate and filtered (→residue is washed out with ethyl acetate and discarded). The ethyl acetate from the filtrate is evaporated off and the residue then diluted with 260 ml acetonitrile, the title compound crystallizing out in the process: HPLC: tRet(Grad20-100)=10.4; MS (M)+=301/303.

reactant | 5-bromoisobenzofuran-1,3-dione | 132 mmol, 30 g | BrC=1C=C2C(OC(C2=CC1)=O)=O | C8H3BrO3
reactant | 4-picoline | 132 mmol, 12.87 ml | N1=CC=C(C=C1)C | C6H7N
product | 5-Bromo-2-(1H-pyridin-4-ylidene)-indan-1,3-dione | BrC=1C=C2C(C(C(C2=CC1)=O)=C1C=CNC=C1)=O | C14H8BrNO2
